US07781454B2
Step 4: 3-(3-bromo-5-chlorophenoxy)-2-chloro-4-methylpyridine
A suspension of 3-(3-bromo-5-chlorophenoxy)-4-methylpyridin-2-ol (340 mg, 1.081 mmol) in phosphorus oxychloride (10 mL, 107 mmol) was heated at 100° C. for 24 hours, after which the solvent was removed in vacuo. The resulting oil was quenched with saturated aqueous NaHCO3 (50 mL) and extracted with EtOAc (100 mL). The organic extract was washed with water (20 mL), dried over MgSO4, filtered, and the solvent removed on a rotary evaporator. This residue was purified using Waters PrepPak and eluting with a gradient of 5-95% ACN/H2O with 0.1% TFA. The desired fractions were combined and the solvent removed in vacuo to give the title compound. LRMS (M+1)=333.8.

reactant | 3-(3-bromo-5-chlorophenoxy)-4-methylpyridin-2-ol | 1.081 mmol, 340 mg | BrC=1C=C(OC=2C(=NC=CC2C)O)C=C(C1)Cl | C12H9BrClNO2
reactant | phosphorus oxychloride | 107 mmol, 10 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-(3-bromo-5-chlorophenoxy)-2-chloro-4-methylpyridine | BrC=1C=C(OC=2C(=NC=CC2C)Cl)C=C(C1)Cl | C12H8BrCl2NO
